US04075001
F. 5-Amino-4-cyano-3-(dimethylamino)isothiazole
A slurry of 5.1 g of 3-amino-2-cyano-3-(dimethylamino)propenethioamide and 25 ml of ethanol was heated to reflux (about 80°) while 3.8 ml of 30% hydrogen peroxide (1.1 g of active H2O2) were added dropwise; the exothermic reaction maintained the mixture at the reflux temperature. After addition of the peroxide was completed, the reaction mixture was heated under reflux for 30 minutes, then filtered hot and allowed to cool. The mixture was diluted with 100 ml of water and stirred for 15 minutes. The resulting precipitate, 5-amino-4-cyano-3-(dimethylamino)isothiazole, was collected by filtration.

reactant | 3-amino-2-cyano-3-(dimethylamino)propenethioamide | 5.1 g | NC(=C(C(N)=S)C#N)N(C)C | C6H10N4S
reactant | hydrogen peroxide | 3.8 ml, 1.1 g | OO | H2O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 5-Amino-4-cyano-3-(dimethylamino)isothiazole | NC1=C(C(=NS1)N(C)C)C#N | C6H8N4S
